US07754737B2
To a solution of tert-butyl (S)-2-cyclohexyl-1-((S)-oxiran-2-yl)ethylcarbamate (0.63 g, 2.5 mmol) and triethylamine (0.65 mL, 5 mmol) in methanol (15 mL) was added Pd/C (0.1 g), and the mixture was hydrogenated under 30 psi pressure at rt overnight. The mixture was filtered and the filtrate was concentrated to give tert-butyl (2S,3R)-1-cyclohexyl-3-hydroxybutan-2-ylcarbamate (0.44 g, 70%). 1H NMR (400 MHz, CDCl3): 4.48 (brs, 1H), 3.78 (m, 2H), 2.30 (brs, 1H), 1.82 (m, 1H), 1.66 (m, 4H), 1.45 (s, 9H), 1.40-1.00 (m, 6H), 1.10 (d, J=6.4 Hz, 3H), 1.00-0.70 (m, 2H); MS (E/Z): 272 (M+H+).

reactant | tert-butyl (S)-2-cyclohexyl-1-((S)-oxiran-2-yl)ethylcarbamate | 2.5 mmol, 0.63 g | C1(CCCCC1)C[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C15H27NO3
reactant | triethylamine | 5 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | tert-butyl (2S,3R)-1-cyclohexyl-3-hydroxybutan-2-ylcarbamate | 0.44 g, 70% | C1(CCCCC1)C[C@@H]([C@@H](C)O)NC(OC(C)(C)C)=O | C15H29NO3
